US05389295
Hydrogenation of 1-methoxy-2-[trans-4-[p-trifluoromethylphenyl)cyclohexyl]ethene [obtainable from p-bromotrifluorotoluene by the above synthesis scheme] on Pd/C and customary work-up give trans-4-methoxyethyl-(p-trifluoromethylphenyl)cyclohexane.

reactant | 1-methoxy-2-[trans-4-[p-trifluoromethylphenyl)cyclohexyl]ethene | COC=C[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C(F)(F)F | C16H19F3O
reactant | p-bromotrifluorotoluene | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
product | trans-4-methoxyethyl-(p-trifluoromethylphenyl)cyclohexane | COCC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C(F)(F)F | C16H21F3O
